US07220862B2
(±)-4-(2-Oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carboxylic acid [2-[1,4′]bipiperidinyl-1′-yl-1-(1H-indol-5-ylmethyl)-2-oxo-ethyl]-amide
A mixture of 4-(2-Oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carboxylic acid {2-[1,4′]bipiperidinyl-1′-yl-2-oxo-1-[1-(2-trimethylsilanyl-ethanesulfonyl)-1H-indol-5-ylmethyl]-ethyl}-amide (52 mg, 0.067 mmol), cesium fluoride (51 mg, 0.33 mmol) in acetonitrile (5 mL) was heated at 80° C. for 4 h. The solvents were removed in vacuo and the residue was subjected to chromatography on silica gel using methylene chloride/methanol/triethylamine (93:5:2) as eluent to afford the title compound as a white solid (70% yield). 1H-NMR (CD3CN, 500 MHz) δ 9.30 (s, 1H), 7.48 (s, 1H), 7.42 (s, 1H), 7.39 (d, J=8.2 Hz, 0.6H), 7.36 (d, J=8.2 Hz, 0.4H), 7.24–7.21 (m, 1H), 7.19 (t, J=7.9 Hz, 1H), 7.12–7.09 (m, 1H), 7.06 (d, J=8.2 Hz, 0.6H), 7.02 (d, J=8.2 Hz, 0.4H), 6.95 (t, J=7.4 Hz, 1, 4.04–3.93 (m, 1H), 3.07–3.02 (m, 1.6H), 2.95 (dd, J=13.7, 7.1 Hz, 0.4H), 2.85–2.72 (m, 3H), 2.56–2.37 (m, 3H), 2.42–2.37 (m, 1H), 1.99–1.95 (m, 7H), 1.76–1.51 (m, 8H), 1.45–1.40 (m, 3H). LC/MS: tR=1.91 min, 612.44 (MH)+.

reactant | 4-(2-Oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carboxylic acid {2-[1,4′]bipiperidinyl-1′-yl-2-oxo-1-[1-(2-trimethylsilanyl-ethanesulfonyl)-1H-indol-5-ylmethyl]-ethyl}-amide | 0.067 mmol, 52 mg | N1(CCCCC1)C1CCN(CC1)C(C(CC=1C=C2C=CN(C2=CC1)S(=O)(=O)CC[Si](C)(C)C)NC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O)=O | C40H57N7O5SSi
reactant | cesium fluoride | 0.33 mmol, 51 mg | [F-].[Cs+]
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | (±)-4-(2-Oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carboxylic acid [2-[1,4′]bipiperidinyl-1′-yl-1-(1H-indol-5-ylmethyl)-2-oxo-ethyl]-amide | 70% yield | N1(CCCCC1)C1CCN(CC1)C(C(CC=1C=C2C=CNC2=CC1)NC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O)=O | C35H45N7O3
